US07935815B2
Synthesis of 5-(N′-tert-butoxycarbonylhydrazino)-4-(4-fluorophenyl)-3-methyl-5-oxo-1-pentyl toluene-4-sulfonate
p-Toluenesulfonyl chloride (321 mg) was added to a solution of tert-butyl N′-[2-(4-fluorophenyl)-5-hydroxy-3-methylpentanoyl]hydrazinecarboxylate (520 mg) in pyridine (6 mL). The reaction solution was stirred at room temperature for 12 hours and then concentrated under reduced pressure. Ethyl acetate and brine were added to the residue, and the organic layer was separated. The resulting organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (elution solvent: heptane-ethyl acetate system) to obtain 335 mg of the title compound. The property value of the compound is as follows.

reactant | p-Toluenesulfonyl chloride | 321 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | tert-butyl N′-[2-(4-fluorophenyl)-5-hydroxy-3-methylpentanoyl]hydrazinecarboxylate | 520 mg | FC1=CC=C(C=C1)C(C(=O)NNC(=O)OC(C)(C)C)C(CCO)C | C17H25FN2O4
solvent | pyridine | 6 mL | N1=CC=CC=C1 | C5H5N
product | 5-(N′-tert-butoxycarbonylhydrazino)-4-(4-fluorophenyl)-3-methyl-5-oxo-1-pentyl toluene-4-sulfonate | 335 mg | C1(=CC=C(C=C1)S(=O)(=O)OCCC(C(C(=O)NNC(=O)OC(C)(C)C)C1=CC=C(C=C1)F)C)C | C24H31FN2O6S
